US07648986B2
Step 1: preparation of 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinic acid
To a solution of 2-aminonicotinic acid (91.1 g, 8.0 mmol), triethylamine (2.7 mL, 19.1 mmol) and acetone/H2O (3:1, 100 mL) was added 1-benzothiophene-2-carbonyl chloride (2.04 g, 10.4 mmol) at 0° C. The resulting solution was allowed to warm to rt and stir overnight. The volatile solvent was removed under reduced pressure and the aqueous solution was acidified with HCl (conc.). The resulting precipitate was filtered and then washed with EtOAc and dried under reduced pressure to afford the product. (1.2 g, 52%). NMR (DMSO): 11.7(1H, broad), 8.60(1H, m); 8.36(1H, s); 8.25(1H, d); 8.07(1H, d); 8.02(1H, d); 7.51(2H, m); 7.36(1H, m).

reactant | 2-aminonicotinic acid | 8.0 mmol, 91.1 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | triethylamine | 19.1 mmol, 2.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-benzothiophene-2-carbonyl chloride | 10.4 mmol, 2.04 g | S1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClOS
solvent | acetone H2O | 100 mL | CC(=O)C.O
product | 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinic acid | S1C(=CC2=C1C=CC=C2)C(=O)NC2=C(C(=O)O)C=CC=N2 | C15H10N2O3S
